US04734499
13.8 parts of phenylglyoxal and 40 parts by volume of water are initially taken and heated to about 50° C., 61 parts of 38% strength aqueous NaHSO3 solution are introduced, and methanol is added in an amount sufficient to dissolve virtually all solid material. Thereafter, 6 parts of ethylenediamine are added at about 30° C., the mixture is heated at 50° C. for 30 minutes and then cooled to about 10° C., a solution of 5.2 parts of 95% pure NaCN in 13 parts by volume of water is added at this temperature, stirring is continued for a further 2 hours at room temperature and working up is carried out as described under Example 4. 10 parts (54% of theory) of 1,4,5,6-tetrahydro-3-phenyl-2-cyanopyrazine are obtained in the form of a reddish brown, viscous oil. The mass spectrum of this product shows the molecular peak expected for the empirical formula C11H11N3, at e/m=185, and its NMR spectrum exhibits the bands typical of the different NH groups, at about 3.5 ppm (N1 -H) and about 6.15 ppm (N4 -H).

reactant | phenylglyoxal | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | NaCN | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1,4,5,6-tetrahydro-3-phenyl-2-cyanopyrazine | 54% | C1(=CC=CC=C1)C1=C(NCCN1)C#N | C11H11N3
